US04797495
Using the procedure outlined in Example 14A, ethyl phenanthro[4,3-b]furan-2-carboxylate (H. C. Pars Pharmaceutical Laboratories, Inc.) gave a 91% yield of phenanthro[4,3-b]furan-2-methanol, mp 125°-126°, (C,H), (CH2Cl2 /hexane).

reactant | ethyl phenanthro[4,3-b]furan-2-carboxylate | O1C2=C(C=C1C(=O)OCC)C=CC=1C=CC=3C=CC=CC3C12 | C19H14O3
solvent | CH2Cl2 hexane | C(Cl)Cl.CCCCCC
product | phenanthro[4,3-b]furan-2-methanol | 91% yield | O1C2=C(C=C1CO)C=CC=1C=CC=3C=CC=CC3C12 | C17H12O2
